US06756378B2
To a solution of tert-butyl 4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetate (2.35 g, 5.08 mmol) in CH2Cl2 (25 mL) was added TFA (25 mL) at 0° C. After being stirred at room temperature. for 3 hr, the mixture was concentrated. The residue was dissolved in 1N NaOH and washed with Et2O. The basic water layer was poured into ice-1N HCl and the resulting mixture was extracted with CHCl3—MeOH (4:1, v/v). The extracts were washed with brine, dried over Na2SO4, and concentrated to dryness. The residue was dissolved in isopropyl ether and hexane was added to this solution until the crystallization was completed. The solid was collected to give 4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetic acid (1.59 g, 77%) as a brownish solid. 1H-NMR (DMSO-d6) δ3.50 (s, 2H), 3.85 (s, 3H), 5.26 (s, 2H), 6.76 (d, J=8.3 Hz, 1H), 6.83-6.89 (m, 2H), 6.91 (s, 1H), 7.01 (dd, J=8.3, 2.3 Hz, 1H), 7.31 (t, J=7.3 Hz, 1H), 7.39 (t, J=7.3 Hz, 2H), 7.49 (d, J=7.3 Hz, 2H), 7.97 (d, J=8.3 Hz, 1H), 8.04 (d, J=8.3 H, 1H), 8.80 (s, 1H), 8.86 (s, 1H), 12.24 (broad s, 1H); FAB-MS m/z 407 (M++1).

reactant | tert-butyl 4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetate | 5.08 mmol, 2.35 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC)=O | C27H30N2O5
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetic acid | 1.59 g, 77% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C23H22N2O5
